US07226942B2
Part I: 3-Benzyloxycarbonylamino-1-cyanomethylene-1,2,3,4-tetrahydronaphthalene
To a solution of diethyl (cyanomethyl)phosphonate (0.189 mL) in 1,2-dimethoxyethane (1 mL) at room temperature under nitrogen was added 60% sodium hydride oil dispersion (46 mg). Upon completion of addition, the mixture was stirred for 1 h. After this time, a solution of 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene (69 mg) in 1,2-dimethoxyethane was added (1 mL). The reaction mixture was stirred at room temperature for 1 h, and then heated to reflux for 4 h. At the conclusion of this period, the reaction mixture was cooled to room temperature, diluted with water, and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated under vacuum to yield a residue. The residue was purified by reverse phase preparative HPLC (trifluoroacetic acid containing solvents were used) to obtain the title compound (38 mg) as a mixture of olefin isomers.

reactant | diethyl (cyanomethyl)phosphonate | 0.189 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride oil dispersion | 46 mg | [H-].[Na+]
reactant | 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene | 69 mg | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=O | C18H17NO3
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | 3-Benzyloxycarbonylamino-1-cyanomethylene-1,2,3,4-tetrahydronaphthalene | 38 mg | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=CC#N | C20H18N2O2
